US09056873B2
Preparation 33: tert-Butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a mixture of 4,6-dichloro-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (7.3 g, 31.1 mol) in acetonitrile (50 mL) was added di-tert-butyl dicarbonate (7.5 g, 34.2 mol) dropwise while stirring the mixture in an ice bath. After the addition was complete, the mixture was stirred for an additional 0.5 h. The resulting solid was collected by filtration and washed with acetonitrile and ethyl acetate to give a white solid (5.5 g, 53%). 1H NMR (DMSO-d6) δ ppm 1.53 (s, 9H), 1.61 (d, J=6.8 Hz, 3H), 5.30 (q, J=6.8 Hz, 2H). [M+H] calc'd for C12H11Cl2FN2O3, 321. found, 321.

reactant | 4,6-dichloro-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 31.1 mol, 7.3 g | ClC1=NC(=C(C2=C1C(NC2C)=O)F)Cl | C8H5Cl2FN2O
reactant | di-tert-butyl dicarbonate | 34.2 mol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-Butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 5.5 g, 53% | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)Cl | C12H11Cl2FN2O3
